US05523299
5-(3,5-Dibromo-2-methoxyphenyl)-1H-pyrrole-2-carboxaldehyde (D29)
Phosphorus oxychloride (0.18 ml, 1.9 mmol) was added to N,N-dimethylformamide (0.15 ml, 1.9 mmol) at 0° C. under argon with constant stirring. The resulting mixture was allowed to warm to room temperature and was then stirred for 1.5 h. 1,2-Dichloroethane (1.5 ml) was added and a solution of 2-(3,5-dibromo-2-methoxyphenyl)-1H-pyrrole (0.30 g, 0.91 mmol) in 1,2-dichloroethane (3 ml) was then added at 0° C. The reaction mixture was stirred at room temperature for 16 h. On cooling, the mixture was poured onto crushed ice and basified with aqueous sodium acetate (50%, 20 ml). The organic phase was separated and the aqueous layer was extracted with ether. The combined organic extracts were washed with aqueous sodium hydrogen carbonate, dried (Na2SO4) and evaporated in vacuo to give an oil. Chromatography on alumina (Brockmann grade 1) with ether - methanol (0-1% ) gradient elution gave the title compound (D29) as a beige solid (0.18 g).

reactant | Phosphorus oxychloride | 1.9 mmol, 0.18 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 1.9 mmol, 0.15 ml | CN(C=O)C | C3H7NO
reactant | 2-(3,5-dibromo-2-methoxyphenyl)-1H-pyrrole | 0.91 mmol, 0.30 g | BrC=1C(=C(C=C(C1)Br)C=1NC=CC1)OC | C11H9Br2NO
reactant | sodium acetate | 20 ml | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | 1,2-Dichloroethane | 1.5 ml | ClCCCl | C2H4Cl2
product | 5-(3,5-Dibromo-2-methoxyphenyl)-1H-pyrrole-2-carboxaldehyde | BrC=1C(=C(C=C(C1)Br)C1=CC=C(N1)C=O)OC | C12H9Br2NO2
